US08975254B2
a) Methyl 5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylate
Phenylhydrazine (0.5 g; 4.62 mmol), acetylenedicarboxylic acid dimethyl ester (0.66 g; 4.62 mmol) and 4-toluenesulfonic acid pyridine salt (1.16 g; 4.62 mmol) were dissolved in 7 ml of dry THF under nitrogen atmosphere and the solution was stirred for 2 h at RT after which 7 ml of 10% HCl (g) in EtOAc was added and the mixture heated at 67° C. for 5 h. The reaction mixture evaporated to dryness and 6 ml of DCM added to the residue. The organic phase was washed with 8 ml of water and the combined water phases were extracted with 2×6 ml of DCM. The combined organic phases were once more washed with 12 ml of water, dried over Na2SO4, filtered and evaporated to dryness to give 0.35 g of the product which was used as such without further purification.

reactant | Phenylhydrazine | 4.62 mmol, 0.5 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetylenedicarboxylic acid dimethyl ester | 4.62 mmol, 0.66 g | COC(=O)C#CC(=O)OC | C6H6O4
reactant | 4-toluenesulfonic acid pyridine salt | 4.62 mmol, 1.16 g | N1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | HCl | 7 ml | Cl | ClH
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylate | 0.35 g | O=C1C=C(NN1C1=CC=CC=C1)C(=O)OC | C11H10N2O3
